US08426417B2
Step (b). 2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester
Palladium acetate [Pd(OAc)2] (4 mg, 0.015 mmol), (±)-BINAP (9 mg, 0.015 mmol) and dimethylformamide (1 mL) were charged to a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. The mixture was stirred under argon for 30 minutes and added to a mixture of 5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamine (50 mg, 0.18 mmol), 2-(2-iodo-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (80 m, 0.15 mmol), and potassium carbonate (205 g, 1.50 mmol) in dimethylformamide (3 mL). The resulting mixture was stirred at 80° C. for 2 hours under argon. After cooling to room temperature, the reaction mixture was filtered on a pad of celite. The solvent was concentrated, the crude solid was purified by flash chromatography on silica gel (eluant: dichloromethane/methanol 9/1) to afford 25 mg (25%) of the title compound as white solid.

reactant | 5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamine | 0.18 mmol, 50 mg | CN1CCN(CC1)C=1C=CC(=C(C1)N)OC(F)(F)F | C12H16F3N3O
reactant | 2-(2-iodo-pyrimidin-4-yl)-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 0.15 mmol | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=NC(=NC=C2)I)CC(F)(F)F)=O | C18H18F3IN4O3
reactant | potassium carbonate | 1.50 mmol, 205 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Palladium acetate | 0.015 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-{2-[5-(4-methyl-piperazin-1-yl)-2-trifluoromethoxy-phenylamino]-pyrimidin-4-yl}-4-oxo-1-(2,2,2-trifluoro-ethyl)-1,4,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 25 mg, 25% | C(C)(C)(C)OC(=O)N1C(C2=C(CC1)N(C(=C2)C2=NC(=NC=C2)NC2=C(C=CC(=C2)N2CCN(CC2)C)OC(F)(F)F)CC(F)(F)F)=O | C30H33F6N7O4
